US07833632B2
In an argon atmosphere, 100 mL of dehydrated THF were added to 10 g (20 mmol) of 2-bromo-9,10-di(2-naphtyl)anthracene, and the temperature of the mixture was cooled to −78° C. Then, 14 mL of n-butyllithium (in hexane, 1.6 mol/L) were dropped. After the mixture had been stirred at −78° C. for 1 hour, the temperature of the mixture was increased to 0° C. The temperature of the mixture was cooled to −78° C. again, and 6.6 mL (60 mmol) of trimethoxyborane were added. The mixture was stirred at −78° C. for 1 hour, and was then stirred at room temperature for 2 hours. 100 mL of 10-mass % hydrochloric were added, and the whole was stirred for 1 hour, followed by filtration. The resultant solid was washed with toluene to obtain 4.7 g of 9,10-diphenylanthracene-2-boronic acid (50% yield).

reactant | 2-bromo-9,10-di(2-naphtyl)anthracene | 20 mmol, 10 g | BrC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC2=CC=CC=C2C=C1)C1=CC2=CC=CC=C2C=C1 | C34H21Br
reactant | n-butyllithium | 1.6 mol/L, 14 mL | C(CCC)[Li]
reactant | trimethoxyborane | 60 mmol, 6.6 mL | COB(OC)OC | C3H9BO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 9,10-diphenylanthracene-2-boronic acid | 4.7 g, 50% yield | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)B(O)O)C1=CC=CC=C1 | C26H19BO2
